US07659048B2
As shown in Reaction Scheme 1, meta-cresol (m-CH3C6H4OH) is reacted with butadiene (C4H6) to form 4-(but-3-enyl)-3-methylphenol.

reactant | meta-cresol | C1=C(C=CC=C1O)C | C7H8O
reactant | butadiene | C=CC=C | C4H6
product | 4-(but-3-enyl)-3-methylphenol | C(CC=C)C1=C(C=C(C=C1)O)C | C11H14O
